US08053456B2
A flask was charged with [5-(5-Isopropyl-2,4-dimethoxy-phenyl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-phenyl-amine (27 mg; 0.06 mmol) and pyridinium chloride (2 g.). The reactants were placed under a nitrogen atmosphere, and the reaction was heated to 210° C. for 25 minutes. To the cooled reaction mixture was added dichloromethane and saturated ammonium chloride solution. The organic fraction was isolated, and the product was purified by column chromatography to give 4-Isopropyl-6-[4-(1-methyl-1H-indol-5-yl)-5-phenylamino-4H-[1,2,4]triazol-3-yl]-benzene-1,3-diol (18 mg; 0.04 mmol.)

reactant | [5-(5-Isopropyl-2,4-dimethoxy-phenyl)-4-(1-methyl-1H-indol-5-yl)-4H-[1,2,4]triazol-3-yl]-phenyl-amine | 0.06 mmol, 27 mg | C(C)(C)C=1C(=CC(=C(C1)C=1N(C(=NN1)NC1=CC=CC=C1)C=1C=C2C=CN(C2=CC1)C)OC)OC | C28H29N5O2
reactant | pyridinium chloride | 2 g | [Cl-].[NH+]1=CC=CC=C1
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-Isopropyl-6-[4-(1-methyl-1H-indol-5-yl)-5-phenylamino-4H-[1,2,4]triazol-3-yl]-benzene-1,3-diol | 0.04 mmol, 18 mg | C(C)(C)C1=C(C=C(C(=C1)C1=NN=C(N1C=1C=C2C=CN(C2=CC1)C)NC1=CC=CC=C1)O)O | C26H25N5O2
